US08492582B2
Dioxane (4.0 mL) and a 4 mol/L aqueous solution of sodium hydroxide (0.25 mL) were added to the obtained tert-butyl 2-(2-acetoxy-5-(piperidin-1-yl)benzamido)-4-(2-methoxyphenyl)benzoate (0.11 g), followed by stirring at 50 to 55° C. for 2 hours. The reaction mixture was cooled to room temperature, and a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-60% hexane/ethyl acetate] to obtain 0.025 g of tert-butyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-4-(2-methoxyphenyl)benzoate as a yellow solid.

reactant | Dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 0.25 mL | [OH-].[Na+]
reactant | tert-butyl 2-(2-acetoxy-5-(piperidin-1-yl)benzamido)-4-(2-methoxyphenyl)benzoate | 0.11 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)OC)C=C(C=C1)N1CCCCC1 | C32H36N2O6
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-4-(2-methoxyphenyl)benzoate | 0.025 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)OC)C=C(C=C1)N1CCCCC1 | C30H34N2O5
